US07312225B2
8c) Production of N-tert-Butyl-2-methoxy-4-nitro-benzenesulfonamide
A solution of 5.0 g (19.9 mmol) of 2-methoxy-4-nitro-benzenesulfonyl chloride in acetone/water (60 ml/15 ml) is mixed at room temperature with 2.9 ml of triethylamine and 2.2 ml of tert.-butylamine. After 5 hours, the acetone is drawn off, and the residue is extracted from ethyl acetate. The combined organic phases are washed with dilute HCl solution and saturated NaCl solution and then filtered through a Whatman filter and concentrated by evaporation. The crude product that is obtained is recrystallized from ethyl acetate. 4.2 g (14.6 mmol, corresponding to 73% of theory) of the product is obtained.

reactant | 2-methoxy-4-nitro-benzenesulfonyl chloride | 19.9 mmol, 5.0 g | COC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)Cl | C7H6ClNO5S
reactant | triethylamine | 2.9 ml | C(C)N(CC)CC | C6H15N
reactant | tert.-butylamine | 2.2 ml | C(C)(C)(C)N | C4H11N
reactant | acetone | CC(=O)C | C3H6O
solvent | acetone water | 60 ml | CC(=O)C.O
product | N-tert-Butyl-2-methoxy-4-nitro-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=C(C=C(C=C1)[N+](=O)[O-])OC | C11H16N2O5S
